US05741785
2-Hydroxyiminomethyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one
To a solution of 2-formyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one (250 mg, 0.69 mmol) in methanol (10 ml) was added a mixture of hydroxylammonium chloride (65 mg, 0.95 mmol) and sodiumacetate (150 mg, 1.10 mmol) in methanol (10 ml). The reaction mixture was heated at 70° C. for 1.5 h, followed by addition of water (10 ml). The precipitate was filtered off and washed with water. Recrystalization from isopropanol/petroleum ether gave 150 mg (58%) of the title compound. M.p. 227.5°-228° C.

reactant | 2-formyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one | 0.69 mmol, 250 mg | C(=O)C=1N=C2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)C1CC=1NC=CN1 | C16H10F3N5O2
reactant | hydroxylammonium chloride | 0.95 mmol, 65 mg | [Cl-].O[NH3+]
reactant | sodiumacetate | 1.10 mmol, 150 mg | C(C)(=O)[O-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2-Hydroxyiminomethyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one | 150 mg, 58% | ON=CC=1N=C2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)C1CC=1NC=CN1 | C16H11F3N6O2
